US05712303
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2,5-dimethylbenzoyl)-3-ethoxypyrazole
A solution of 0.26 g (1.5 mmol) of 2,5-dimethylbenzoylacetonitrile, 0.34 mL (0.31 g, 1.60 mmol) of tetraethylorthocarbonate and 0.30 mL (0.33 g, 3.20 mmol) of acetic anhydride in 10 mL of EtOAc was refluxed overnight. The solvent was evaporated and 10 mL of absolute ethanol was added and then stripped. The residues were dissolved in 10 mL of ethanol, 368 mg (1.5 mmol) of 2,6-dichloro-4-trifluoromethylphenylhydrazine and 0.7 mL (0.51 g, 5.0 mmol) of triethylamine were added, and the mixture was refluxed for 90 minutes. The mixture was poured into water, extracted with EtOAc and the organic extracts were washed with dilute HCl and brine, and dried over MgSO4. Evaporation gave a gum which was chromatographed on silica gel with 4:1 hexane/EtOAc to give the title product which crystallized from pentane, 15 mg (2%), m.p. 99°-101° C.

reactant | 2,5-dimethylbenzoylacetonitrile | 1.5 mmol, 0.26 g | CC1=C(C(=O)CC#N)C=C(C=C1)C | C11H11NO
reactant | tetraethylorthocarbonate | 1.60 mmol, 0.34 mL, 0.31 g | C(C)OC(OCC)(OCC)OCC | C9H20O4
reactant | acetic anhydride | 3.20 mmol, 0.30 mL, 0.33 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 1.5 mmol, 368 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | triethylamine | 5.0 mmol, 0.7 mL, 0.51 g | C(C)N(CC)CC | C6H15N
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2,5-dimethylbenzoyl)-3-ethoxypyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)OCC)C(C1=C(C=CC(=C1)C)C)=O | C21H18Cl2F3N3O2
